US06093731
A solution of NaOH (5 mL, 2 M, 10 mmol) was added to a solution of ethyl 1-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino)cyclobutanecarboxylate (100 mg, 0.23 mmol) in MeOH (5 mL) and the mixture was heated at 55° C. for 6 h. The cooled mixture was neutrilised with dilute HCl (5 mL, 2 M) to give a precipitate and the MeOH was evaporated in vacuo. The solid was collected by filtration, with copious water washing, and dried under high vacuum to give 1-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}cyclobutanecarboxylic acid hydrochloride (15 mg, 0.033 mmol).

reactant | NaOH | 10 mmol, 2 M, 5 mL | [OH-].[Na+]
reactant | ethyl 1-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino)cyclobutanecarboxylate | 0.23 mmol, 100 mg | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)NC1(CCC1)C(=O)OCC)NC(=N)N | C17H20ClN5O4S
reactant | HCl | 2 M, 5 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 1-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}cyclobutanecarboxylic acid hydrochloride | 0.033 mmol, 15 mg | Cl.ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)NC1(CCC1)C(=O)O)NC(=N)N | InChI=1S/C15H16ClN5O4S.ClH/c16-11-7-19-12(20-14(17)18)10-6-8(2-3-9(10)11)26(24,25)21-15(13(22)23)4-1-5-15;/h2-3,6-7,21H,1,4-5H2,(H,22,23)(H4,17,18,19,20);1H
